US07846701B2
Placed in a 50-mL four-necked flask equipped with a stirrer, thermometer and dropping funnel were 36.2 mg (0.1 mmol) of Cu(OTf)2, 10 g of toluene and 87.1 mg (0.2 mmol) of the ligand, and the inner atmosphere was replaced with nitrogen. After replacement with nitrogen, the mixture was stirred at 25° C. for 20 min. Then, 16 mL (17.6 mmol) of a toluene solution (1.1 mol/L) of diethylzinc was added to the mixture at 25° C., followed by further stirring for 10 min. The mixture was then cooled to −17° C., followed by addition of 1.43 g (11 mmol) of propionic anhydride, and 0.96 g (10 mmol) of 2-cyclohexenone was added dropwise to the mixture over the period of 1 hour. After completion of the dropwise addition, stirring was continued at the same temperature for 6 hours. After the reaction was completed, 34.5 g of a 5% aqueous sulfuric acid solution as cooled to 0° C. was added to the reaction solution for quenching. After separation, the organic layer was washed (5 times), and the resultant organic layer was concentrated under reduced pressure to give 1.58 g of a crude product. The crude product was purified by silica-gel column chromatography to produce 1.37 g (7.5 mmol), 75% yield, of 3-ethyl-1-cyclohexene-1-yl propionate. A portion of the compound was hydrolyzed by the conventional method to give 3-ethylcyclohexanone, which was then subjected to determination of optical purity and identified as the (R) isomer with 34.0% ee of optical purity.

reactant | diethylzinc | C(C)[Zn]CC
reactant | propionic anhydride | 11 mmol, 1.43 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | 2-cyclohexenone | 10 mmol, 0.96 g | C1(C=CCCC1)=O | C6H8O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 3-ethyl-1-cyclohexene-1-yl propionate | C(CC)(=O)OC1=CC(CCC1)CC | C11H18O2
catalyst | Cu(OTf)2 | 0.1 mmol, 36.2 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Cu+2]
solvent | toluene | 10 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 17.6 mmol, 1.1 mol/L, 16 mL | C1(=CC=CC=C1)C | C7H8
product | 3-ethylcyclohexanone | 75% yield | C(C)C1CC(CCC1)=O | C8H14O
